US07652180B2
Preparation of 2-Ethylhexyl Chloride in a Semicontinuous Process
A 1 l jacketed glass reactor with a glass paddle stirrer, an immersed tube for reactant metering and an attached water separator is initially charged with 200 g of N-n-butylalkylpyridinium chloride (prepared according to Example 1 as catalyst and adjusted to a temperature of 135° C. 519.8 g of 2-ethylhexanol are introduced uniformly via the immersed tube within 5 h. Over the entire reaction time, gaseous hydrogen chloride is likewise metered in via the immersed tube in a slight stoichiometric excess (223 g). The water of reaction is distilled off azeotropically with the target product and removed as the lower phase in the water separator, while the upper phase is recycled into the reactor. After a total reaction time of 22 h, the conversion based on the 2-ethylhexanol is 99.3%.

reactant | 2-ethylhexanol | 519.8 g | C(C)C(CO)CCCC | C8H18O
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
product | 2-Ethylhexyl Chloride | C(C)C(CCl)CCCC | C8H17Cl
